US05030631
Step 1: 1-Acridinesulfonyl chloride:
Add acridine (5 g, 28 mmol) in portions to chlorosulfonic acid (7 mL, 2.2 eq) over 5 minutes with efficient stirring. Heat the reaction mixture to reflux for 5 hours. Cool the reaction mixture to room temperature and add cautiously to crushed ice (200 mL). Adjust the suspension to alkaline pH (phenolphthalein indicator) with sodium bicarbonate solid added in portions. Extract with methylene chloride (100 mL), wash the organic layer with saturated aqueous sodium carbonate (100 mL), saturated aqueous sodium chloride (100 mL). Dry the organic layer (MgSO4), filter and concentrate in vacuo to give an orange solid. Chromatograph on a column of silica gel (800 mL) eluting with 3:2 ethyl acetate:hexane to give the sulfonyl chloride as an apparent mixture of isomers (2.71 g) and the acridine-1,8-disulfonyl chloride (2.28 g) side product, both as yellow solids. Rf=0.85 (mono), 0.50 (di) (100% ethyl acetate)

reactant | acridine-1,8-disulfonyl chloride | 2.28 g | C1(=CC=CC2=NC3=CC=CC(=C3C=C12)S(=O)(=O)Cl)S(=O)(=O)Cl | C13H7Cl2NO4S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Acridinesulfonyl chloride | C1(=CC=CC2=NC3=CC=CC=C3C=C12)S(=O)(=O)Cl | C13H8ClNO2S
